US05093370
1,3-Bis(4-hydroxybutyl)benzene
To a solution of, 822 mg of 1,3-bis[4-(2-tetrahydropyranyloxy)butyl]benzene in 3 ml of ethanol was added 1.5 ml of 6N hydrochloric acid, and after stirring at a room temperature for 7 hours, 30 ml of ethyl acetate and 10 ml of ice water were added. The separated organic layer was washed with 5% sodium bicarbonate aqueous solution, water and a saturated sodium chloride, dried over magnesium sulfate, and evaporated under a reduced pressure to remove the solvent. The resulting oily residue was applied to a silica gel column and eluted with chloroform/methanol (100:1) to obtain 264 mg of the title compound as a colorless liquid.

reactant | 1,3-bis[4-(2-tetrahydropyranyloxy)butyl]benzene | 822 mg | O1C(CCCC1)OCCCCC1=CC(=CC=C1)CCCCOC1OCCCC1 | C24H38O4
reactant | hydrochloric acid | 6N, 1.5 ml | Cl | ClH
reactant | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 3 ml | C(C)O | C2H6O
product | 1,3-Bis(4-hydroxybutyl)benzene | 264 mg | OCCCCC1=CC(=CC=C1)CCCCO | C14H22O2
